US08461328B2
To a stirred solution of (R)-1-piperidin-3-yl-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene (72 mg, 297 μmol) in DCM (15 ml) at 0° C., cyanoacetic acid (30.0 mg, 357 μmol), N-hydroxybenzotriazole (56.0 mg, 416 μmol), 4-(dimethylamino)pyridine (58.0 mg, 475 μmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (91.0 mg, 475 μmol) were added. The mixture was then stirred at ambient temperature for 18 hours. The crude reaction mixture was purified by column chromatography on silica gel (gradient: 0 to 6% methanol in DCM) affording 82 mg (92%) of 3-oxo-3-[(R)-3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidin-1-yl]propionitrile. LCMS (Method A, ESI): RT=2.73 min, m+H=310.1; 1H NMR (400 MHz, DMSO-d6) δ: 12.38 (s, 1H), 9.02 (s, 1H), 7.64-7.59 (m, 1H), 7.12 (m, 1H), 5.28-4.96 (m, 1H), 4.81-4.31 (m, 1H), 4.20-3.70 (m, 3H), 3.36-2.96 (m, 2H), 2.44-1.68 (m, 4H).

reactant | (R)-1-piperidin-3-yl-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene | 297 μmol, 72 mg | N1C[C@@H](CCC1)N1N=NC2=CN=C3NC=CC3=C12 | C12H14N6
reactant | cyanoacetic acid | 357 μmol, 30.0 mg | C(#N)CC(=O)O | C3H3NO2
reactant | N-hydroxybenzotriazole | 416 μmol, 56.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 475 μmol, 91.0 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 475 μmol, 58.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-oxo-3-[(R)-3-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidin-1-yl]propionitrile | 82 mg, 92% | O=C(CC#N)N1C[C@@H](CCC1)N1N=NC2=CN=C3NC=CC3=C12 | C15H15N7O
